US05102892
a) Methyl 3-(2-methoxyanilino)-4-methoxy-2-butenoate
A mixture of 100 g of o-anisidine, 190 g of methyl γ-methoxyacetoacetate, 2.3 ml of acetic acid, 203 g of calcium sulfate and 800 ml of absolute ethanol was refluxed for 16 hours. The residue after filtration and concentration of the filtrate under reduced pressure was taken up in ethyl acetate, the solution was extracted several times with 2 N NaOH and 5% strength citric acid solution and dried over Na2SO4, and the solvent was removed in a rotary evaporator. 150 g of crude product were obtained and were employed without further purification in the following stage.

reactant | o-anisidine | 100 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | methyl γ-methoxyacetoacetate | 190 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
reactant | calcium sulfate | 203 g | S(=O)(=O)([O-])[O-].[Ca+2]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | Methyl 3-(2-methoxyanilino)-4-methoxy-2-butenoate | 150 g | COC1=C(NC(=CC(=O)OC)COC)C=CC=C1 | C13H17NO4
